US07405300B2
1-(4-Butylphenyl)-2-chloro-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 and subsequently treated with hydrochloric acid as described in Example 44 to afford 1-(4-butylphenyl)-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde hydrochloride (46% yield) as a cream solid. ESI/MS 362 (M+H); RT=3.02 min; NMR 10.13 (1H, s); 8.12 (1H, d, J=9 Hz); 7.48 (4H, s); 7.21 (2H, m); 6.94 (1H, d, J=9 Hz); 3.41 (4H, br m); 2.97 (4H, br m); 2.74 (2H, t); 1.64 (2H, p); 1.37 (2H, m); 0.97 (3H, t).

reactant | 1-(4-Butylphenyl)-2-chloro-1H-indole-3-carboxaldehyde | C(CCC)C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)Cl | C19H18ClNO
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | hydrochloric acid | Cl | ClH
product | 1-(4-butylphenyl)-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde hydrochloride | 46% yield | Cl.C(CCC)C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)N1CCNCC1 | InChI=1S/C23H27N3O.ClH/c1-2-3-6-18-9-11-19(12-10-18)26-22-8-5-4-7-20(22)21(17-27)23(26)25-15-13-24-14-16-25;/h4-5,7-12,17,24H,2-3,6,13-16H2,1H3;1H
